US05811439
The same procedures used in Example 1 were repeated except for using 725 mg of indole-4-carbaldehyde and 1-chloro-3-methyl-2-butene instead of the benzyl bromide used in Example 1 to give 554 mg of 1-(3-methyl-2-butenyl)indole-4-carbaldehyde as an orange-colored oily substance. The yield thereof was found to be 52%.

reactant | indole-4-carbaldehyde | 725 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 1-chloro-3-methyl-2-butene | ClCC=C(C)C | C5H9Cl
product | 1-(3-methyl-2-butenyl)indole-4-carbaldehyde | 554 mg | CC(=CCN1C=CC=2C(=CC=CC12)C=O)C | C14H15NO
